US05221742
Step b: 3.4-Dihydro-7-(1-oxopropyl)-3-oxo-1,4(2H)-benzoxazine
The following compounds were made by the above procedure, using the appropriate starting materials: 3,4-dihydro-2-methyl-7-(1-oxopropyl)-3-oxo-1,4(2H)-benzoxazine, mp 179°-179.5° C.; and 3,4-dihydro-2,2-dimethyl-7-(1-oxopropyl)-3-oxo-1,4(2H)-benzoxazine, mp 153°-155° C.

reactant | 3,4-dihydro-2-methyl-7-(1-oxopropyl)-3-oxo-1,4(2H)-benzoxazine | CC1OC2=C(NC1=O)C=CC(=C2)C(CC)=O | C12H13NO3
reactant | 3,4-dihydro-2,2-dimethyl-7-(1-oxopropyl)-3-oxo-1,4(2H)-benzoxazine | CC1(OC2=C(NC1=O)C=CC(=C2)C(CC)=O)C | C13H15NO3
product | 3.4-Dihydro-7-(1-oxopropyl)-3-oxo-1,4(2H)-benzoxazine | O=C(CC)C1=CC2=C(NC(CO2)=O)C=C1 | C11H11NO3
